* C:\Users\Tilman Preuschoff\Documents\GitHub\PDH_photodiode\spice\stability\LTC6268-10_non-inverting.asc
V1 V+ 0 2.5
V2 0 V- 2.5
R3 N002 N001 180
C6 N002 N001 0.5p
V3 N005 0 AC 1
XU1 N004 N001 N002 V+ V- NC_01 LTC6268-10
R1 N001 0 20
R2 N003 N002 49.9
C1 N004 N005 10n
R4 N004 0 1k
C2 N003 0 5p
C3 N001 0 0.5p
C4 N004 0 1p
R5 N003 0 49.9
.ac dec 100 1k 10G
.lib LTC2.lib
.backanno
.end
