* C:\Users\Tilman Preuschoff\Documents\GitHub\PDH_photodiode\spice\stability\LTC6268.asc
C1 PD V- 1.p
R1 PD V- 100G
V1 V+ 0 2.5
V2 0 V- 2.5
R3 N001 PD 20k
C6 N001 PD 0.1p
V3 N002 0 AC 1
XU1 N002 0 N001 V+ V- NC_01 LTC6268
.ac dec 100 1k 10G
.lib LTC2.lib
.backanno
.end
